US09281482B2
(1) synthesis of N-phenylphenanthren-9-amine
9-bromophenanthrene (7.00 g, 27.22 mmol), aniline (3.7 mL, 40.84 mmol), Pd2(dba)3 (499 mg, 0.544 mmol), tris-t-butylphosphine (0.123 mL, 0.544 mmol), sodium tert-butoxide (3.90 mg, 40.84 mmol) were put in a 250 mL two-neck flask and dissolved in toluene. The solution was refluxed and stirred for 12 hours. After completion of the reaction, the solution was extracted with DI water/methylenechloride and distilled under reduced pressure to remove the solvent. The resultant was columned with a solution of n-hexane and methylenechloride (3:1) and was re-crystallized in a solution of methylene chloride and petroleum ether such that the solid compound was obtained, (4.60 g, yield: 63%).

reactant | 9-bromophenanthrene | 27.22 mmol, 7.00 g | BrC=1C2=CC=CC=C2C=2C=CC=CC2C1 | C14H9Br
reactant | aniline | 40.84 mmol, 3.7 mL | NC1=CC=CC=C1 | C6H7N
reactant | tris-t-butylphosphine | 0.544 mmol, 0.123 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium tert-butoxide | 40.84 mmol, 3.90 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.544 mmol, 499 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-phenylphenanthren-9-amine | yield: 63% | C1(=CC=CC=C1)NC=1C2=CC=CC=C2C=2C=CC=CC2C1 | C20H15N
